US08357711B2
N-(4-tert-butylbenzyl)-4-[(1,3-thiazol-2-ylamino)sulfonyl]benzamide
4-{[(2,4-Dimethoxybenzyl)(1,3-thiazol-2-yl)amino]sulfonyl}benzoic acid (Preparation 99, 1.30E3 mg, 0.00300 mol), HBTU (1400.8 mg, 0.0031671 mol) and Et3N (1.07 mL, 0.00766 mol) were mixed in methylene chloride (10 mL, 0.2 mol). 4-tert-butylbenzylamine (424.1 mg, 0.002598 mol) was added and the reaction stirred overnight. The reaction was washed with saturated sodium bicarbonate (aq) followed by 0.5N HCl. The organic phase was separated and dried over magnesium sulfate, then treated with activated carbon and filtered through a Celite pad. The solvent was removed in vacuo to give an oily residue. The residue was triturated with DCM and the solid collected by filtration. LCMS analysis of the solid revealed cleavage of the dimethoxybenzyl protection group had occurred. The gray solid was saved. The filtrate was purified by column chromatography, chloroform to 10% MeOH in chloroform gradient eluent. Product fractions were combined and evaporated to an oily residue. The residue was triturated with methylene chloride and beige solid collected. The solid products from steps 4 and 5 were combined and dissolved in 1N NaOH (aq). The solution was washed 3× with diethyl ether. The basic aqueous phase was treated with activated carbon and filtered through a Celite pad. The pale yellow filtrate was slowly acidified to pH 2-3 with 6N HCl (aq). The resultant precipitate was collected by filtration. Vacuum drying yielded 511 mg of product as a white powder.

reactant | 4-{[(2,4-Dimethoxybenzyl)(1,3-thiazol-2-yl)amino]sulfonyl}benzoic acid | 0.00300 mol, 1.30E3 mg | COC1=C(CN(S(=O)(=O)C2=CC=C(C(=O)O)C=C2)C=2SC=CN2)C=CC(=C1)OC | C19H18N2O6S2
reactant | HBTU | 0.0031671 mol, 1400.8 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 0.00766 mol, 1.07 mL | CCN(CC)CC | C6H15N
reactant | methylene chloride | 0.2 mol, 10 mL | C(Cl)Cl | CH2Cl2
reactant | 4-tert-butylbenzylamine | 0.002598 mol, 424.1 mg | C(C)(C)(C)C1=CC=C(CN)C=C1 | C11H17N
product | N-(4-tert-butylbenzyl)-4-[(1,3-thiazol-2-ylamino)sulfonyl]benzamide | 511 mg | C(C)(C)(C)C1=CC=C(CNC(C2=CC=C(C=C2)S(=O)(=O)NC=2SC=CN2)=O)C=C1 | C21H23N3O3S2
